US04229448
4 g of a potassium salt of 5-hydroxy-2-methylpyridine, 5.2 g of o-bromochlorobenzene and 250 mg of a copper powder were suspended in 10 ml of dimethylformamide, and the mixture was allowed to react in a nitrogen gas stream at 115° C. for 23 hours under stirring. The reaction mixture was diluted with 70 ml of methanol and filtered. The filtrate was dried to a solid, and 120 ml of chloroform was added to the residue. The mixture was washed with 70 ml of an aqueous sodium hydroxide solution at pH of 9. The solvent layer was washed with water, dried with anhydrous sodium sulfate and immediately dried to obtain 2.8 g of oily 5-(o-chlorophenoxy)-2-methylpyridine.

reactant | potassium | 4 g | [K] | K
reactant | 5-hydroxy-2-methylpyridine | OC=1C=CC(=NC1)C | C6H7NO
reactant | o-bromochlorobenzene | 5.2 g | BrC1=C(C=CC=C1)Cl | C6H4BrCl
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | methanol | 70 ml | CO | CH4O
catalyst | copper | 250 mg | [Cu] | Cu
product | 5-(o-chlorophenoxy)-2-methylpyridine | 2.8 g | ClC1=C(OC=2C=CC(=NC2)C)C=CC=C1 | C12H10ClNO
